US04886721
To 0.1 mol of tetrabromoxylene were added 0.17 mol of fumaronitrile, 0.66 mol of sodium iodide and 400 ml of anhydrous dimethylformamide, and the mixture was stirred under heating at 70° to 80° C. for 7 hours. The reaction mixture was added to 800 g of ice-water, and to the resultant precipitate was added about 15 g of sodium hydrogen sulfite and the mixture was left to stand overnight. Subsequently, the mixture was filtered and dried, followed by recrystallization from chloroform/ethanol, to give white 2,3-dicyanonaphthalene. The yield was 80%.

reactant | tetrabromoxylene | 0.1 mol | BrC=1C(=C(C(=C(C1C)C)Br)Br)Br | C8H6Br4
reactant | fumaronitrile | 0.17 mol | C(\C=C\C#N)#N | C4H2N2
reactant | sodium iodide | 0.66 mol | [I-].[Na+]
reactant | sodium hydrogen sulfite | about 15 g | S(=O)(O)[O-].[Na+]
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 2,3-dicyanonaphthalene | yield was 80% | C(#N)C1=CC2=CC=CC=C2C=C1C#N | C12H6N2
